### PR TITLE
[Merged by Bors] - feat(RingTheory/Presentation): reindex presentations

### PR DESCRIPTION
**Pull request by chrisflav**
Constructs induced presentations from equivalent indexing types for generators and relations. This will be used in a follow-up to fix the universes of the generators and relations in `Algebra.IsStandardSmooth` to `0`.

---

- [x] depends on: #21259 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Generators.lean [hunk 1]
```diff
@@ -238,6 +238,23 @@ def baseChange {T} [CommRing T] [Algebra R T] (P : Generators R S) : Generators
     use (a + b)
     rw [map_add, ha, hb]
 
+/-- Given generators `P` and an equivalence `ι ≃ P.vars`, these
+are the induced generators indexed by `ι`. -/
+@[simps (config := .lemmasOnly) vars]
```
Comment (erdOne) [inline Mathlib/RingTheory/Generators.lean:243]: I think the syntax has changed. Can you merge master and fix accordingly?

File: Mathlib/RingTheory/Presentation.lean [hunk 2]
```diff
@@ -457,6 +457,32 @@ instance comp_isFinite [P.IsFinite] [Q.IsFinite] : (Q.comp P).IsFinite where
...
+    apply Ideal.comap_injective_of_surjective _ hf.2
+    simp_rw [Ideal.comap_comapₐ, rename_comp_rename, Generators.reindex_vars, Equiv.self_comp_symm]
+    simp [Ideal.comap_map_of_bijective _ hf, rename_id]
+
+@[simp]
+lemma isFinite_reindex_iff {ι κ : Type*} (e : ι ≃ P.vars) (f : κ ≃ P.rels) :
+    (P.reindex e f).IsFinite ↔ P.IsFinite :=
+  ⟨fun h ↦ ⟨e.finite_iff.mp h.1, f.finite_iff.mp h.2⟩,
+    fun h ↦ ⟨e.finite_iff.mpr h.1, f.finite_iff.mpr h.2⟩⟩
+
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:485]:
```suggestion
alias ⟨_, IsFinite.reindex⟩ := isFinite_reindex_iff

```
We could have the inverse lemma as its own lemma to allow dot notation. (not tested)

Comment (chrisflav) [reply Mathlib/RingTheory/Presentation.lean:490]: Worked as is, thanks.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
